US04385177
(a) Methyl 2-(methoxycarbamoylcyclopent-1-yloxyimino)2-(fur-2-yl)acetate
This compound was prepared from methyl Z-2-(carboxycyclopent-1-yloxyimino)-2-(fur-2-yl)acetate and methoxyamine as described in Preparation 7(c) νmax (CHBr3) 3400, 3350 (--NH--), 1740 (--CO2R), 1686 cm-1 (--CONH--), τ(DMSO d6), 6.4 (--OMe), --0.88 (--CONHO), 7.7-8.7 (cylopentyl), 2.1, 3.1, 3.3 (furyl), 6.1 (--CO2Me). Yield 75%

reactant | methyl Z-2-(carboxycyclopent-1-yloxyimino)-2-(fur-2-yl)acetate | C(=O)(O)C1(CCCC1)O\N=C(/C(=O)OC)\C=1OC=CC1 | C13H15NO6
reactant | methoxyamine | CON | CH5NO
reactant | CHBr3 | C(Br)(Br)Br | CHBr3
solvent | DMSO | CS(=O)C | C2H6OS
product | Methyl 2-(methoxycarbamoylcyclopent-1-yloxyimino)2-(fur-2-yl)acetate | Yield 75% | CONC(=O)C1(CCCC1)ON=C(C(=O)OC)C=1OC=CC1 | C14H18N2O6
